US05965741
A solution of LiAlH4 (1M in THF, 8.13 ml) was added to freshly distilled THF (10 ml) 10 ml. A solution of benzyl 2-benzyloxy-3-isopropylbenzoate (2.27 g, 6.31 mmole) in THF (10 ml) was added via a syringe to the LiAlH4 solution. The temperature was maintain below 40° C. using a water bath and the reaction mixture stirred at ambient temperature overnight. The reaction was quenched with water and the pH adjusted to ~7 with dilute HCl. The resultant precipitate was filtered off and the filtrate partitioned between ethyl acetate/H2O. The organic phase was dried (MgSO4), evaporated and the residue purified by chromatography (eluant: ethyl acetate/hexane) to give 2-benzyloxy-3-isopropylbenzylalcohol (1.38 g, 83%).

reactant | LiAlH4 | 1M, 8.13 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | benzyl 2-benzyloxy-3-isopropylbenzoate | 6.31 mmole, 2.27 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC=C1C(C)C | C24H24O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-benzyloxy-3-isopropylbenzylalcohol | 1.38 g, 83% | C(C1=CC=CC=C1)OC1=C(CO)C=CC=C1C(C)C | C17H20O2
